US04725616
K2. 7-acetylindole
To 30 g. (0.186 mole) of 7-acetylindoline in 415 ml. of methylene chloride was added 48.5 g (0.56 mole) of manganese dioxide and the mixture refluxed through a soxhlet filled with 4A molecular sieves for 22 hours. The mixture was cooled and an additional 48.5 g. of manganese dioxide was added. Fresh molecular sieves were added and the refluxing continued for 5 hours. The same amount of manganese dioxide and molecular sieves were added again and the refluxing was continued for one hour. The mixture was filtered and the filtrate concentrated to dryness. The residue was triturated with hexane and filtered, 22.57 g. (76% yield), m.p. 65°-66° C.

reactant | 7-acetylindoline | 0.186 mole | C(C)(=O)C=1C=CC=C2CCNC12 | C10H11NO
catalyst | manganese dioxide | 0.56 mole, 48.5 g | [O-2].[O-2].[Mn+4]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-acetylindole | 76% yield | C(C)(=O)C=1C=CC=C2C=CNC12 | C10H9NO
